US04367238
3-Methyl-7-(2-chlorobenzenesulfonyl)-2,3-dihydrobenzofuran-2-one was treated with potassium hydroxide in methanol in a similar manner to that of Example 21-(10) to give 2-[2-hydroxy-3-(2-chlorobenzenesulfonyl)phenyl]propionic acid, mp. 180°-181° C.

reactant | 3-Methyl-7-(2-chlorobenzenesulfonyl)-2,3-dihydrobenzofuran-2-one | CC1C(OC2=C1C=CC=C2S(=O)(=O)C2=C(C=CC=C2)Cl)=O | C15H11ClO4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 2-[2-hydroxy-3-(2-chlorobenzenesulfonyl)phenyl]propionic acid | OC1=C(C=CC=C1S(=O)(=O)C1=C(C=CC=C1)Cl)C(C(=O)O)C | C15H13ClO5S
